US07759518B2
N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-5-methylthiophene-2-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with 5-methylthiophene-2-sulfonyl chloride to obtain the title compound. 1H NMR (300 MHz, CDCl3): δ 7.34 (dd, J=0.9 & 10.2 Hz, 1H), 7.30 (ddd, J=2.1, 4.8 & 9.0 Hz, 1H), 7.25 (d, J=3.9 Hz, 1H), 7.07 (m, 2H), 6.65 (dd, J=1.2 & 3.9 Hz, 1H), 5.89 (dt, J=2.4, 8.7 & 17.4 Hz, 1H), 5.54 (br s, D2O exchangeable, 1H), 2.46 (s, 3H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 5-methylthiophene-2-sulfonyl chloride | CC1=CC=C(S1)S(=O)(=O)Cl | C5H5ClO2S2
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-5-methylthiophene-2-sulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C=1SC(=CC1)C)NC1=C(C=C(C=C1)I)F | C17H12F3IN2O2S2
